US06245761B1
Preparation of N-isopropyl-4-(2-fluoro-5-bromobenzyloxy)butylamine
A solution of 4-(2-fluoro-5-bromobenzyloxy)butyl bromide (1.2 g, 3.53 mmol) in tetrahydrofuran (18 ml) was treated with sodium iodide (484 mg, 3.2 mmol). The resulting mixture was stirred at ambient temperature. After 1.5 hours, the sodium bromide was removed by filtration, and the filtrate concentrated. The residue was treated with a tetrahydrofuran solution of isopropylamine (3.01 ml, 35.3 mmol). The progress of the reaction was monitored by thin layer chromatography. The resulting mixture was stirred for about 18 hours at ambient temperature, after which time an additional 10 equivalents of isopropylamine was added to drive the reaction. The reaction mixture was diluted with methylene chloride, and washed with 25 mM phosphate buffer and brine. The organic fraction was dried over sodium sulfate and the solvents were removed in vacuo. The desired title intermediate was further purified by liquid chromatography.

reactant | 4-(2-fluoro-5-bromobenzyloxy)butyl bromide | 3.53 mmol, 1.2 g | FC1=C(COCCCCBr)C=C(C=C1)Br | C11H13Br2FO
reactant | sodium iodide | 3.2 mmol, 484 mg | [I-].[Na+]
reactant | isopropylamine | 35.3 mmol, 3.01 ml | C(C)(C)N | C3H9N
reactant | isopropylamine | 10 equivalents | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-isopropyl-4-(2-fluoro-5-bromobenzyloxy)butylamine | C(C)(C)NCCCCOCC1=C(C=CC(=C1)Br)F | C14H21BrFNO
